US05874427
N-(4-fluorobenzoyl)-5-amino-1H-indole
The 4-fluorobenzoyl chloride (5.2 g, 33 mmol) in 30 ml of tetrahydrofuran was added dropwise to a solution of the 5-amino-1H-indole (3.96 g, 30.0 mmol) and triethylamine (4.04 g, 40 mmol) at room temperature. The reaction was stirred for 18 hours and then poured into water. The mixture was made basic with sodium hydroxide solution then extracted with methylene chloride. The extract was dried (sodium sulfate) and concentrated. The residue was recrystallized from ethyl acetate/hexanes to give 6.37 g of product. (84%).

reactant | 4-fluorobenzoyl chloride | 33 mmol, 5.2 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 5-amino-1H-indole | 30.0 mmol, 3.96 g | NC=1C=C2C=CNC2=CC1 | C8H8N2
reactant | triethylamine | 40 mmol, 4.04 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(4-fluorobenzoyl)-5-amino-1H-indole | 6.37 g | FC1=CC=C(C(=O)N2C=CC3=CC(=CC=C23)N)C=C1 | C15H11FN2O
